* c:\users\vansh\esim-workspace\a\a.cir

.include lm_741.sub
x1 net-_r2-pad1_ vref vin net-_x1-pad4_ net-_r2-pad2_ net-_r1-pad1_ net-_x1-pad7_ ? lm_741
v2  net-_x1-pad7_ gnd 15
v1  vin gnd sine(0 10 100 0 0)
* u2  vout plot_v1
* u1  vin plot_v1
v4  gnd net-_x1-pad4_ 15
v3  vref gnd 8
* u3  net-_r1-pad1_ vout adc_bridge_1
r1  net-_r1-pad1_ gnd 1k
* u4  vref plot_v1
r2  net-_r2-pad1_ net-_r2-pad2_ 1k
a1 [net-_r1-pad1_ ] [vout ] u3
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 0.1e-03 20e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(vout)
plot v(vin) v(vref)
.endc
.end
